US04952593
2,4-Dimethyl-1-(2-thienoyl)thiosemicarbazide
To a stirred, room temperature, solution of 2,4-dimethylthiosemicarbazide (3.75 g, 3.15×10-2 mole) and pyridine (30 ml) was added dropwise 2-thiophenecarbonyl chloride (3.20 ml, 2.99×10-2 mole). After stirring overnight the pyridine was evaporated at reduced pressure and the concentrate was treated with H2O. The resulting semi-solid was extracted into ethyl acetate. The ethyl acetate extract was washed with saturated NaCl and subsequently dried over anhydrous Na2SO4. The drying agent was removed by filtration and the filtrate was evaporated at reduced pressure, leaving a slightly yellowish solid. This was treated with Et2O and the solid was collected by filtration affording a colorless powder: 4.7 g (68%), mp 176°-178° C.

reactant | 2,4-dimethylthiosemicarbazide | 3.15×10-2 mole, 3.75 g | CN(N)C(=S)NC | C3H9N3S
reactant | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-thiophenecarbonyl chloride | 2.99×10-2 mole, 3.20 ml | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
solvent | Et2O | CCOCC | C4H10O
product | 2,4-Dimethyl-1-(2-thienoyl)thiosemicarbazide | CN(NC(=O)C=1SC=CC1)C(=S)NC | C8H11N3OS2
